US07932251B2
N-Chlorosuccinimide (84 mg) was added to a solution of 6-(4-hydroxy-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile (200 mg) in DMF (4 ml). The mixture was stirred at room temperature for 24 hours, then ethyl acetate (50 ml) and water (20 ml) were added and the organic layer was washed twice with water (2×20 ml) and brine (20 ml), then dried over sodium sulfate, filtered and concentrated under reduced pressure to afford a crude (165 mg) with 6-(3-chloro-4-hydroxy-5-trifluoromethyl-phenyl)-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile which is contaminated starting material. This material was used for next step without further purification.

reactant | N-Chlorosuccinimide | 84 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 6-(4-hydroxy-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 200 mg | OC1=C(C=C(C=C1)C1=CC2=C(C(=N1)C#N)N=CN2C)C(F)(F)F | C15H9F3N4O
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 20 ml | O | H2O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 6-(3-chloro-4-hydroxy-5-trifluoromethyl-phenyl)-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile | ClC=1C=C(C=C(C1O)C(F)(F)F)C1=CC2=C(C(=N1)C#N)N=CN2C | C15H8ClF3N4O
